US05492929
N-[5-Chloro-3-(2-methylphenyl)-2-benzofurylmethyl]-N'-(2,4-difluorophenyl)urea
To a suspension of 5-chloro-3-(2-methylphenyl)benzofuran-2-acetic acid (300 mg) in anhydrous benzene (10 ml) were added diphenyl phosphoryl azide (0.33 ml) and triethylamine (0.16 ml). The mixture was stirred for 15 minutes at room temperature, then heated under reflux for one hour. To this reaction mixture {containing 2-[5-chloro-3-(2methylphenyl)benzofuryl]methyl isocyanate}was added 2,4-difluoroaniline (0.30 ml), and the mixture was stirred with heating under reflux for 0.5 hour. The solvent was distilled off. To the residue was added ethyl acetate, which was washed with water, dilute hydrochloric acid, water, an aqueous solution of sodium hydrogencarbonate and water, successively, followed by drying and distilling off the solvent. The residue was purified by means of a silica gel (30 g) column chromatography (hexane - ethyl acetate =3:1) to afford the title compound as colorless crystals (63 mg).

reactant | 5-chloro-3-(2-methylphenyl)benzofuran-2-acetic acid | 300 mg | ClC=1C=CC2=C(C(=C(O2)CC(=O)O)C2=C(C=CC=C2)C)C1 | C17H13ClO3
reactant | diphenyl phosphoryl azide | 0.33 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoroaniline | 0.30 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-[5-Chloro-3-(2-methylphenyl)-2-benzofurylmethyl]-N'-(2,4-difluorophenyl)urea | 63 mg | ClC=1C=CC2=C(C(=C(O2)CNC(=O)NC2=C(C=C(C=C2)F)F)C2=C(C=CC=C2)C)C1 | C23H17ClF2N2O2
